US06537948B1
To a solution of 0.13 g of 4-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-3-hydroxy-5-methylpyrazole in 2.0 ml of ethyl acetate were added 0.10 g of (R)-(+)-methyl lactate, 0.26 g of triphenylphosphine and 0.5 ml of a 40% solution of diisopropyl azodicarboxylate in toluene, and the mixture was stirred for 3 hours at room temperature. 6 ml of n-hexane was poured into this reaction solution, and the precipitated insoluble substance was filtrated off. This solution was subjected to silica gel column chromatography to obtain 0.08 g of (S)-3-{1-(methoxycarbonyl)ethoxy}-4-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-5-methylpyrazole [S optical isomer of present compound 5-12, hereinafter, represented as 5-12-S].

reactant | 4-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-3-hydroxy-5-methylpyrazole | 0.13 g | ClC1=C(OC=2C(=NNC2C)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C16H11ClF4N4O4
reactant | (R)-(+)-methyl lactate | 0.10 g | C([C@H](O)C)(=O)OC | C4H8O3
reactant | triphenylphosphine | 0.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | ethyl acetate | 2.0 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | 6 ml | CCCCCC | C6H14
product | (S)-3-{1-(methoxycarbonyl)ethoxy}-4-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-5-methylpyrazole | 0.08 g | COC(=O)[C@H](C)OC1=NNC(=C1OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)C | C20H17ClF4N4O6
